US04971966
11-[[2-[(Diethylamino)methyl]-1-piperidinyl]acetyl]5,11-dihydro-2-methyl-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
8-Chloro-11-[[2-[(diethylamino)methyl]-1-piperidinyl]acetyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one of m.p. 186° to 188° C. (acetonitrile using active charcoal);

reactant | 8-Chloro-11-[[2-[(diethylamino)methyl]-1-piperidinyl]acetyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC=1C=CC2=C(C(NC3=C(N2C(CN2C(CCCC2)CN(CC)CC)=O)N=CC=C3)=O)C1 | C24H30ClN5O2
reactant | acetonitrile | C(C)#N | C2H3N
product | 11-[[2-[(Diethylamino)methyl]-1-piperidinyl]acetyl]5,11-dihydro-2-methyl-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | C(C)N(CC)CC1N(CCCC1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC(=N2)C | C25H33N5O2
